US08008498B2
6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylamino methyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 4-1)
6-(2-Methoxy-4-methoxymethoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1, 181 mg, 0.381 mmol) was dissolved in 1,4-dioxane (3 mL), 4N HCl/1,4-dioxane solution (1 mL) was added thereto, and then the mixture was stirred at room temperature for 2.5 hours. The mixture was diluted with ethyl acetate (30 mL), washed with saturated aqueous sodium hydrogen carbonate solution (30 mL), water (30 mL) and saturated brine (30 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (101 mg) as a pale orange solid. (Yield 62%)

reactant | 6-(2-Methoxy-4-methoxymethoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.381 mmol, 181 mg | COC1=C(C=CC(=C1)OCOC)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC | C29H34N2O4
reactant | HCl 1,4-dioxane | 4N, 1 mL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylamino methyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 101 mg, Yield 62% | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC)OC | C27H30N2O3
